US08686024B2
(1) Synthesis of tert-butyl N-(cyclohexylmethyl)carbamate
To a solution of cyclohexylmethylamine (500 mg, 4.4 mmol) in 5.0 mL of tetrahydrofuran was added triethylamine (537 mg, 5.3 mmol) and di-tert-butyl dicarbonate (1.0 g, 4.6 mmol) under ice-cooled conditions. After being stirred for 1 h, the reaction mixture was added water, and diluted with ethyl acetate. The separated organic layer was washed with brine, and dried over Na2SO4. After filtration, the filtrate was concentrated in vacuo to obtain the title compound (799 mg, 85%).

reactant | cyclohexylmethylamine | 4.4 mmol, 500 mg | C1(CCCCC1)CN | C7H15N
reactant | triethylamine | 5.3 mmol, 537 mg | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 4.6 mmol, 1.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-(cyclohexylmethyl)carbamate | 799 mg, 85% | C1(CCCCC1)CNC(OC(C)(C)C)=O | C12H23NO2
